### PR TITLE
Formalize Kaplansky's conjectures

### LINKED ISSUE #116: Kaplansky's conjectures
I would like to join the project, starting with a nice [Kaplansky's conjectures](https://en.wikipedia.org/wiki/Kaplansky%27s_conjectures)

### PR DESCRIPTION
**Pull request by Reklle**
Closes #116

### CODE REVIEW

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 1]
```diff
@@ -0,0 +1,49 @@
...
+/--
+## The idempotent conjecture:
+
+If G is torsion-free, then $K[G]$ has no non-trivial idempotents.
+-/
+@[category research open, AMS 16]
+theorem idempotent_conjecture (a : MonoidAlgebra K G)
+    (h : IsIdempotentElem a) : a = 0 ∨ a = 1 := by
+  sorry
+
```
Comment (b-mehta) [inline FormalConjectures/Wikipedia/Kaplansky.lean:77]: It could be nice to also add the unit conjecture, and that it has been formally disproved.

Comment (Reklle) [reply FormalConjectures/Wikipedia/Kaplansky.lean:77]: Added! And I corrected the file formatting.

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+/--
+## The zero-divisor conjecture:
+
+If `G` is torsion-free, then the group algebra `K[G]` has no non-trivial zero divisors.
+-/
+@[category research open, AMS 16]
+theorem zero_divisor_conjecture :
+    NoZeroDivisors (MonoidAlgebra K G) := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
theorem zero_divisor_conjecture : NoZeroDivisors (MonoidAlgebra K G) := by
  sorry
```

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 3]
```diff
@@ -0,0 +1,72 @@
...
+
+/--
+## The idempotent conjecture:
+
+If `G` is torsion-free, then `K[G]` has no non-trivial idempotents.
+-/
+@[category research open, AMS 16]
+theorem idempotent_conjecture (a : MonoidAlgebra K G)
+    (h : IsIdempotentElem a) : a = 0 ∨ a = 1 := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
theorem idempotent_conjecture (a : MonoidAlgebra K G) (h : IsIdempotentElem a) :
    a = 0 ∨ a = 1 := by
```

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 4]
```diff
@@ -0,0 +1,72 @@
...
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Kaplansky%27s_conjectures)
+-/
+
+namespace Kaplansky
+
+variable (K : Type*) [Field K]
+variable (G : Type*) [Group G] (hG : Monoid.IsTorsionFree G)
+
+/--
+## The zero-divisor conjecture:
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
**The zero-divisor conjecture**
```
This renders better in docstrings

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 5]
```diff
@@ -0,0 +1,72 @@
...
+/--
+A unit in `K[G]` is trivial if it is exactly of the form `kg` where:
+- `k` is a unit in the base field `K`
+- `g` is an element of the group `G`
+-/
+def IsTrivialUnit (u : (MonoidAlgebra K G)ˣ) : Prop :=
+  ∃ (k : Kˣ) (g : G), u = MonoidAlgebra.single g (k : K)
+
+/--
+## Unit Conjecture (characteristic ≠ 2)
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
**Unit Conjecture (characteristic ≠ 2)**
```
This renders better in docstrings

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 6]
```diff
@@ -0,0 +1,72 @@
...
+
+If `G` is torsion-free, then the group algebra `K[G]` has no non-trivial zero divisors.
+-/
+@[category research open, AMS 16]
+theorem zero_divisor_conjecture :
+    NoZeroDivisors (MonoidAlgebra K G) := by
+  sorry
+
+/--
+## The idempotent conjecture:
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
**The idempotent conjecture**
```

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 7]
```diff
@@ -0,0 +1,72 @@
...
+
+If `G` is torsion-free and `K` has characteristic different from 2,
+then every unit in `K[G]` is trivial.
+
+Note: This conjecture is known to be false when `char(K) = 2` (Gardam, 2021).
+-/
+
+@[category research open, AMS 16]
+theorem unit_conjecture (hK : ringChar K ≠ 2)
+    (u : (MonoidAlgebra K G)ˣ) : IsTrivialUnit K G u :=
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
theorem unit_conjecture (hK : ringChar K ≠ 2) (u : (MonoidAlgebra K G)ˣ) :
    IsTrivialUnit K G u :=
```

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 8]
```diff
@@ -0,0 +1,72 @@
...
+def IsTrivialUnit (u : (MonoidAlgebra K G)ˣ) : Prop :=
+  ∃ (k : Kˣ) (g : G), u = MonoidAlgebra.single g (k : K)
+
+/--
+## Unit Conjecture (characteristic ≠ 2)
+
+If `G` is torsion-free and `K` has characteristic different from 2,
+then every unit in `K[G]` is trivial.
+
+Note: This conjecture is known to be false when `char(K) = 2` (Gardam, 2021).
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kaplansky.lean]: They also claim that "essentially the same" counterexample works in characteristic 0. Hence, maybe its better to just state the negated version in any characteristic (and mark as solved)?

**Review by callesonne — COMMENTED** [review]
Thanks a lot!

File: FormalConjectures/Wikipedia/Kaplansky.lean (hunk 8 above)
Comment (alreadydone) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: This paper gives a char 0 example: https://arxiv.org/abs/2312.05240

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 9]
```diff
@@ -0,0 +1,72 @@
...
+    (h : IsIdempotentElem a) : a = 0 ∨ a = 1 := by
+  sorry
+
+/--
+A unit in `K[G]` is trivial if it is exactly of the form `kg` where:
+- `k` is a unit in the base field `K`
+- `g` is an element of the group `G`
+-/
+def IsTrivialUnit (u : (MonoidAlgebra K G)ˣ) : Prop :=
+  ∃ (k : Kˣ) (g : G), u = MonoidAlgebra.single g (k : K)
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Kaplansky.lean]: For the record [this](https://github.com/siddhartha-gadgil/Polylean/blob/b2379c538307b2ce4a9f9969587232f9d94dd438/UnitConjecture/GardamTheorem.lean#L20-L29) is the definition in the formalization of the proof, but I think yours is better.

File: FormalConjectures/Wikipedia/Kaplansky.lean (hunk 8 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: Oh, thanks for clarifying!
I think the negated version looks strange. Maybe it's better to just remove it?

Comment (callesonne) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: I think stating the unit conjecture is nice, but I would just state the negated version instead (and mark as solved!) :)

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 10]
```diff
@@ -0,0 +1,71 @@
...
+theorem idempotent_conjecture (a : MonoidAlgebra K G) (h : IsIdempotentElem a) :
+    a = 0 ∨ a = 1 := by
+  sorry
+
+/--
+A unit in `K[G]` is trivial if it is exactly of the form `kg` where:
+- `k` is a unit in the base field `K`
+- `g` is an element of the group `G`
+-/
+def IsTrivialUnit (u : (MonoidAlgebra K G)ˣ) : Prop :=
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
def IsTrivialUnit (u : MonoidAlgebra K G) : Prop :=
```
Actually here it follows from the proposition that `u` is a unit, so I would not require it being one a-priori (if you want to add a small test / API lemma showing that it follows that `u` is a unit, that would also be great!).

File: FormalConjectures/Wikipedia/Kaplansky.lean (hunk 8 above)
Comment (alreadydone) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: You can state that for every `p` that is prime or 0, there exists a counterexample with `CharP K p`.

Comment (Reklle) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: According **Corollary 3.3.10** from [a thesis](https://thesis.unipd.it/retrieve/4e0f38f7-55de-4bf2-bc19-a97dd838a9f8/Pellone_Angela.pdf), there is a counterexample in every characteristic

File: FormalConjectures/Wikipedia/Kaplansky.lean (hunk 9 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: This is my first proof. I'm not sure if it's correct.

File: FormalConjectures/Wikipedia/Kaplansky.lean (hunk 8 above)
Comment (alreadydone) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: My link above cites arXiv:2106.02147. for this result (in prime characteristics)

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 11]
```diff
@@ -0,0 +1,79 @@
...
+  ∃ (k : Kˣ) (g : G), u = MonoidAlgebra.single g (k : K)
+
+lemma IsTrivialUnit.isUnit {u : MonoidAlgebra K G} (h : IsTrivialUnit u) : IsUnit u := by
+  rcases h with ⟨k, g, rfl⟩
+  let v := MonoidAlgebra.single g⁻¹ (k⁻¹ : K)
+  apply isUnit_of_mul_eq_one u v
+  · -- u * v = 1
+    rw [MonoidAlgebra.single_mul_single]
+    rw [mul_inv_cancel]
+    rw [Units.mul_inv]
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
    rw [MonoidAlgebra.single_mul_single, mul_inv_cancel, Units.mul_inv]
```

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 12]
```diff
@@ -0,0 +1,79 @@
...
+    exact MonoidAlgebra.one_def.symm
+  · -- v * u = 1
+    rw [MonoidAlgebra.single_mul_single]
+    rw [inv_mul_cancel]
+    rw [Units.inv_mul]
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
    rw [MonoidAlgebra.single_mul_single, inv_mul_cancel, Units.inv_mul]
```

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 13]
```diff
@@ -0,0 +1,79 @@
...
+- `k` is a unit in the base field `K`
+- `g` is an element of the group `G`
+-/
+def IsTrivialUnit (u : MonoidAlgebra K G) : Prop :=
+  ∃ (k : Kˣ) (g : G), u = MonoidAlgebra.single g (k : K)
+
+lemma IsTrivialUnit.isUnit {u : MonoidAlgebra K G} (h : IsTrivialUnit u) : IsUnit u := by
+  rcases h with ⟨k, g, rfl⟩
+  let v := MonoidAlgebra.single g⁻¹ (k⁻¹ : K)
+  apply isUnit_of_mul_eq_one u v
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
  apply isUnit_of_mul_eq_one u (MonoidAlgebra.single g⁻¹ (k⁻¹ : K))
```
Since `v` is only used one, I would just write this instead.

**Review by callesonne — COMMENTED** [review]
Thanks a lot for adding `IsTrivialUnit.isUnit`!

File: FormalConjectures/Wikipedia/Kaplansky.lean (hunk 13 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: Thanks for correction!

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 14]
```diff
@@ -0,0 +1,74 @@
...
+/--
+There is a counterexample to **Unit Conjecture** in any characteristic.
+
+[Pe23] Pellone, A. (2023). Counterexamples to Kaplansky’s Unit Conjecture.
+[Ga24] Gardam, G. (2024). Non-trivial units of complex group rings.
+-/
+@[category research solved, AMS 16]
+theorem counter_unit_conjecture (k : ℕ) :
+    ∃ /-- I have no idea -/,  ∃ (u : (monoid_algebra K G)ˣ) ¬IsTrivialUnit K G u := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Kaplansky.lean]: I haven't really looked at the maths, but does something along these lines sound reasonable?
```suggestion
theorem counter_unit_conjecture (p : ℕ) (hp : p = 0 ∨ p.Prime) :
    ∃ᵉ (K : Type) (G : Type) (_ : Field K) (_ : Group G) (_ : Monoid.IsTorsionFree G) (_ :  CharP K p) 
    (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit K G u := by
  sorry
```

Comment (callesonne) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: I would quantify over the `p` as well (a counterexample in one characteristic should be enough)

Comment (callesonne) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: Possibly it could be a variant where the computer is forced to give a counterexample for any characteristic

Comment (b-mehta) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: Since this one is known false in any characteristic, I think it'd be nice to force a counterexample in every characteristic; making a variant for that is a good idea imo

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: Arguably there could be two statements here: the actual negation, which only requires a counterexample in one characteristic, and the stronger version, which proves that there are counterexamples in all characteristics.

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: (seems you were faster than me at typing @b-mehta :D)

Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Kaplansky.lean]: Updated suggestion given the discussion above
```suggestion
The **Unit Conjecture** is false.

[Pe23] Pellone, A. (2023). Counterexamples to Kaplansky’s Unit Conjecture.
[Ga24] Gardam, G. (2024). Non-trivial units of complex group rings.
-/
theorem counter_unit_conjecture :
    ∃ᵉ (p : ℕ) (K : Type) (G : Type) (_ : Field K) (_ : Group G) (_ : Monoid.IsTorsionFree G) (_ :  CharP K p) 
    (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit K G u := by
  sorry
 
/--
There is a counterexample to **Unit Conjecture** in any characteristic.

[Pe23] Pellone, A. (2023). Counterexamples to Kaplansky’s Unit Conjecture.
[Ga24] Gardam, G. (2024). Non-trivial units of complex group rings.
-/
theorem counter_unit_conjecture_strong (p : ℕ) (hp : p = 0 ∨ p.Prime) :
    ∃ᵉ (K : Type) (G : Type) (_ : Field K) (_ : Group G) (_ : Monoid.IsTorsionFree G) (_ :  CharP K p) 
    (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit K G u := by
  sorry
```

Comment (callesonne) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: The first docstring here is not closed!

Comment (Reklle) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: @Paul-Lez, thank you much! This is really tricky syntax

Comment (alreadydone) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: Let me suggest
```
theorem counter_unit_conjecture:
    ∃ᵉ (G : Type) (_ : Group G) (_ : Monoid.IsTorsionFree G),
    ∀ (p : ℕ) (hp : p = 0 ∨ p.Prime),
    ∃ᵉ (_ : Field K) (_ :  CharP K p) (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit K G u := by
  sorry
```
We can even define the Promislow group G via `PresentedGroup` and specify that `K = ZMod p` when `p.Prime` and `K = CyclotomicField 8 ℚ` or `ℂ` when `p = 0`. 

The original references are https://arxiv.org/pdf/2106.02147 (Murray) and https://arxiv.org/pdf/2312.05240 (Gardam, already cited). We could cite https://arxiv.org/abs/2108.06570 (Passman) too, because he extended Murray's 2-parameter family to a 3-parameter one. [Pellone](https://thesis.unipd.it/retrieve/4e0f38f7-55de-4bf2-bc19-a97dd838a9f8/Pellone_Angela.pdf)'s master thesis (already cited) gives a summary of the three papers as well as more basic results, and gives a detailed proof for the 3-parameter family, but the quality is doubtful: the proof in Corollary 3.3.2 about supports doesn't make sense to me, and it's unnecessarily cited in Corollary 3.3.10 (there's a canonical embedding between the group rings preserving supports and it's not necessary to consider arbitrary isomorphisms).

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 15]
```diff
@@ -0,0 +1,85 @@
...
+theorem idempotent_conjecture (a : MonoidAlgebra K G) (h : IsIdempotentElem a) :
+    a = 0 ∨ a = 1 := by
+  sorry
+
+/--
+A unit in `K[G]` is trivial if it is exactly of the form `kg` where:
+- `k` is a unit in the base field `K`
+- `g` is an element of the group `G`
+-/
+def IsTrivialUnit (u : MonoidAlgebra K G) : Prop :=
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Kaplansky.lean:54]: Don't you need this?
```suggestion
variable {K G} in
/--
A unit in `K[G]` is trivial if it is exactly of the form `kg` where:
- `k` is a unit in the base field `K`
- `g` is an element of the group `G`
-/
def IsTrivialUnit (u : MonoidAlgebra K G) : Prop :=
```

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 16]
```diff
@@ -0,0 +1,85 @@
...
+
+lemma IsTrivialUnit.isUnit {u : MonoidAlgebra K G} (h : IsTrivialUnit u) : IsUnit u := by
+  rcases h with ⟨k, g, rfl⟩
+  apply isUnit_of_mul_eq_one u (MonoidAlgebra.single g⁻¹ (k⁻¹ : K))
+  · -- u * v = 1
+    rw [MonoidAlgebra.single_mul_single, mul_inv_cancel, Units.mul_inv]
+    exact MonoidAlgebra.one_def.symm
+  · -- v * u = 1
+    rw [MonoidAlgebra.single_mul_single, inv_mul_cancel, Units.inv_mul]
+    exact MonoidAlgebra.one_def.symm
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Kaplansky.lean]: golfed:
```suggestion
  obtain ⟨k, g, rfl⟩ := h
  exact (Prod.isUnit_iff (x := (k.1, g)).mpr ⟨k.isUnit, Group.isUnit g⟩).map MonoidAlgebra.singleHom
```

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 17]
```diff
@@ -0,0 +1,85 @@
...
+
+/--
+The **Unit Conjecture** is false.
+
+[Pe23] Pellone, A. (2023). Counterexamples to Kaplansky’s Unit Conjecture.
+[Ga24] Gardam, G. (2024). Non-trivial units of complex group rings.
+-/
+theorem counter_unit_conjecture :
+    ∃ᵉ (p : ℕ) (K : Type) (G : Type) (_ : Field K) (_ : Group G) (_ : Monoid.IsTorsionFree G) (_ :  CharP K p) 
+    (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit K G u := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Kaplansky.lean]: The ᵉ seems unnecessary, and `K G : Type` doesn't work with ᵉ for some reason.
No need to specify the characteristic here:
```suggestion
@[category research solved, AMS 16]
theorem counter_unit_conjecture :
    ∃ (K G : Type) (_ : Field K) (_ : Group G) (_ : Monoid.IsTorsionFree G)
    (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit K G u := by
```

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 18]
```diff
@@ -0,0 +1,85 @@
...
+ 
+/--
+There is a counterexample to **Unit Conjecture** in any characteristic.
+
+[Pe23] Pellone, A. (2023). Counterexamples to Kaplansky’s Unit Conjecture.
+[Ga24] Gardam, G. (2024). Non-trivial units of complex group rings.
+-/
+theorem counter_unit_conjecture_strong (p : ℕ) (hp : p = 0 ∨ p.Prime) :
+    ∃ᵉ (K : Type) (G : Type) (_ : Field K) (_ : Group G) (_ : Monoid.IsTorsionFree G) (_ :  CharP K p) 
+    (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit K G u := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
@[category research solved, AMS 16]
theorem counter_unit_conjecture_strong:
    ∃ (G : Type) (_ : Group G) (_ : Monoid.IsTorsionFree G),
    ∀ (p : ℕ) (hp : p = 0 ∨ p.Prime),
    ∃ (_ : Field K) (_ :  CharP K p) (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit K G u := by
```

File: FormalConjectures/Wikipedia/Kaplansky.lean (hunk 15 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Kaplansky.lean:54]: I didn't know about this. Thank you!

**Comment by callesonne** [comment]
@Reklle, I think this PR is almost ready to get merged, but could you move `HypothesisH` to another PR, so that we can review that separately?

**Review by Paul-Lez — APPROVED** [review]
LGTM!

**Comment by Reklle** [comment]
As suggested by @alreadydone, I added counterexamples and updated the literature. But I have some problems with formalization, please help.

**Comment by Paul-Lez** [comment]
Sure! Will take a look now:)

**Comment by Reklle** [comment]
@Paul-Lez, @callesonne, @alreadydone, thank you very much for your help!! In the end it turned out to be a challenging abut interesting task

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 19]
```diff
@@ -0,0 +1,115 @@
...
+variable (K : Type*) [Field K]
+variable (G : Type*) [Group G] (hG : Monoid.IsTorsionFree G)
+
+/--
+**The zero-divisor conjecture**
+
+If `G` is torsion-free, then the group algebra `K[G]` has no non-trivial zero divisors.
+-/
+@[category research open, AMS 16 20]
+theorem zero_divisor_conjecture : NoZeroDivisors (MonoidAlgebra K G) := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Kaplansky.lean]: Is `hG` actually included in the signature?
```suggestion
variable (G : Type*) [Group G] (hG : Monoid.IsTorsionFree G)
include hG

/--
**The zero-divisor conjecture**

If `G` is torsion-free, then the group algebra `K[G]` has no non-trivial zero divisors.
-/
@[category research open, AMS 16 20]
theorem zero_divisor_conjecture : NoZeroDivisors (MonoidAlgebra K G) := by
```

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 20]
```diff
@@ -0,0 +1,115 @@
...
+  sorry
+
+/--
+There is a counterexample to **Unit Conjecture** in any characteristic.
+-/
+@[category research open, AMS 16 20]
+theorem counter_unit_conjecture_strong:
+    ∃ (G : Type) (_ : Group G) (_ : Monoid.IsTorsionFree G),
+    ∀ (p : ℕ) (hp : p = 0 ∨ p.Prime),
+    ∃ (_ : Field K) (_ :  CharP K p) (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit u.val := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Kaplansky.lean]: It seems these are identical now? My suggestions for the first one was a purely existential statement
```
@[category research solved, AMS 16]
theorem counter_unit_conjecture :
    ∃ (K G : Type) (_ : Field K) (_ : Group G) (_ : Monoid.IsTorsionFree G)
    (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit K G u := by
  sorry
```
but maybe we don't want it since `counter_unit_conjecture_strong` is stronger (and can be proven using `counterexamples_i/ii` easily)?

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 21]
```diff
@@ -0,0 +1,115 @@
...
+
+lemma promislow_group_is_torsionfree :
+    Monoid.IsTorsionFree PromislowGroup := by
+  sorry
+
+/--
+If $P$ is the Promislow group, then the group ring $\mathbb{F}_p[P]$ has a non-trivial unit.
+-/
+@[category test]
+theorem unit_conjecture.counterexamples.i (p : ℕ) [hp : Fact (p.Prime)] :
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
theorem unit_conjecture.counterexamples.i (p : ℕ) [hp : Fact p.Prime] :
```

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 22]
```diff
@@ -0,0 +1,115 @@
...
+    ∃ (G : Type) (_ : Group G) (_ : Monoid.IsTorsionFree G),
+    ∀ (p : ℕ) (hp : p = 0 ∨ p.Prime),
+    ∃ (_ : Field K) (_ :  CharP K p) (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit u.val := by
+  sorry
+
+/-! ## Counterexamples -/
+
+/--
+**The Promislow group**
+$\langle a, b | b^{-1}a^2 b a^2, a^{-1}b^2 a b^2$
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Kaplansky.lean]:
```suggestion
$\langle a, b | b^{-1}a^2 b a^2, a^{-1}b^2 a b^2 \rangle$
```

File: FormalConjectures/Wikipedia/Kaplansky.lean (hunk 20 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: What about
```lean
/--
There is a counterexample to **Unit Conjecture** in any characteristic.
-/
@[category research open, AMS 16 20]
theorem counter_unit_conjecture_strong (n : ℕ) :
    ∃ (G : Type) (_ : Group G) (_ : Monoid.IsTorsionFree G),
    ∃ (_ : Field K) (_ :  Char K n) (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit u.val := by
```
or `answer(sorry)` version

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 23]
```diff
@@ -0,0 +1,116 @@
...
+  sorry
+
+/-! ## Counterexamples -/
+
+/--
+**The Promislow group**
+$\langle a, b | b^{-1}a^2 b a^2, a^{-1}b^2 a b^2 \rangle$
+-/
+abbrev PromislowGroup : Type :=
+  letI a := FreeGroup.of 0
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Kaplansky.lean]: You probably want (0 : Fin 2) otherwise this is going to have infinitely many generators indexed by Nat

File: FormalConjectures/Wikipedia/Kaplansky.lean (hunk 20 above)
Comment (alreadydone) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: This is weaker than the current version right (so it's certainly `solved`)? You might try to prove it from the current version.

Comment (Reklle) [reply FormalConjectures/Wikipedia/Kaplansky.lean]: It seems the proof will be voluminous… But I might do that in future PR.

**Comment by Paul-Lez** [comment]
By the way @Reklle, feel free to remove the "Awaiting author" tag once you have addressed all comments left by reviewers (or simply want a reviewer to take another look at the PR to answer questions/comments!)

**Comment by Reklle** [comment]
@Paul-Lez, it seems that contributors don't have the ability to manage tags.

Off topic, but... My silly decision to use `main` branch played a cruel joke on me, and for now I can't make new PR without a huge tail of commit history... :(

**Comment by Paul-Lez** [comment]
Re labels, good to know! Let me see if we can fix that!

I'll review it one last time and merge it so you can get a clean commit history :D

**Review by Paul-Lez — APPROVED** [review]
LGTM!

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 24]
```diff
@@ -0,0 +1,120 @@
...
+    ∃ (_ : Field K) (_ :  CharP K p) (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit u.val := by
+  sorry
+
+/--
+There is a counterexample to **Unit Conjecture** in any characteristic.
+-/
+@[category research solved, AMS 16 20]
+theorem counter_unit_conjecture_weak (p : ℕ) (hp : p = 0 ∨ p.Prime) :
+    ∃ (G : Type) (_ : Group G) (_ : Monoid.IsTorsionFree G),
+    ∃ (_ : Field K) (_ :  CharP K p) (u : (MonoidAlgebra K G)ˣ), ¬IsTrivialUnit u.val := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Kaplansky.lean:84]: This doesn't include `K : Type` in the existential statement, so it's using the K in the variables, so this is claiming the same field K can have any characteristic ... I'll submit a fix soon.

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Kaplansky.lean:84]: Good point!

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Kaplansky.lean:84]: And same for `counter_unit_conjecture` actually

Comment (alreadydone) [reply FormalConjectures/Wikipedia/Kaplansky.lean:84]: #173

File: FormalConjectures/Wikipedia/Kaplansky.lean [hunk 25]
```diff
@@ -0,0 +1,120 @@
...
+  sorry
+
+/-! ## Counterexamples -/
+
+/--
+**The Promislow group**
+$\langle a, b | b^{-1}a^2 b a^2, a^{-1}b^2 a b^2 \rangle$
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Kaplansky.lean:91]: I think we prefer Unicode when it works :)
```suggestion
**The Promislow group** ⟨ a, b | b⁻¹a²ba², a⁻¹b²ab² ⟩
```
